Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Celebrex
 
Attending: ___.
 
Chief Complaint:
tack complaint
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ is a ___ year old female with a history of
dementia, HTN, emphysema with an intermittent presenting with an
esophageal foreign body, admitted to medicine for post 
procedural
management.

She is unable to recollect most of the history due to her
dementia, but apparently accidentally swallowed an unknown
foreign body last week (7 days ago). She was seen in the ___ 
___ ED yesterday, and transferred to ___ for management
overnight. She notes a raspy voice but denies any other 
symptoms.
She is managing her secretions. 

She was evaluated by GI and underwent a CT neck pre EGD which
demonstrated 1. 1.5 cm linear foreign body in the anterior wall
of the cervical esophagus. She underwent EGD on ___ with
removal of a thumb tack.

On arrival to the floor Ms. ___ corroborated the history above
as best should could. Believes the tack has been there for a
while, unclear how. She denied neck or chest pain, no abdominal
pain. Confirmed she uses oxygen intermittently (also confirmed 
by
daughter).
 
Past Medical History:
Breast cancer
Emphysema, intermittent oxygen requirement
GERD
HTN
Depression
 
Social History:
___
Family History:
Father unknown type of cancer. Mother died of stroke
 
Physical Exam:
ADMISSION PHYSICAL:
VS: ___ 1437 Temp: 97.8 PO BP: 127/67 HR: 106 RR: 18 O2 
sat:
98% O2 delivery: 2L Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: pleasant, conversational
Eyes: Anicteric without conjunctival injection 
ENT: MMM. No oral lesions  
NECK: No notable JVD. Trachea midline, no crepitus on exam
___: RRR, WWP
LUNGS: Comfortable on room air
ABDOMEN: soft, nontender, nondistended, normoactive bowel 
sounds,
no rebound or guarding
SKIN: Warm. Dry.
EXT: well perfused, no edema
NEURO: Oriented x1, fluent speech. 
Psych: Pleasant and interactive

DISCHARGE PHYSICAL EXAM:
VS: ___ ___ Temp: 98.1 PO BP: 131/68 HR: 108 RR: 18 O2 
sat:
94% O2 delivery: Ra 
GENERAL: pleasant, conversational
Eyes: Anicteric without conjunctival injection 
ENT: MMM. No oral lesions  
NECK: No notable JVD. Trachea midline, no crepitus on exam
___: RRR, WWP
LUNGS: Comfortable on room air
ABDOMEN: soft, nontender, nondistended, normoactive bowel 
sounds,
no rebound or guarding
SKIN: Warm. Dry.
EXT: well perfused, no edema
NEURO: Oriented x1, fluent speech. 
Psych: Pleasant and interactive
 
Pertinent Results:
ADMISSION LABS:
___ 08:52PM BLOOD WBC-7.7 RBC-3.88* Hgb-10.7* Hct-33.6* 
MCV-87 MCH-27.6 MCHC-31.8* RDW-15.9* RDWSD-50.3* Plt ___
___ 08:52PM BLOOD Neuts-88.5* Lymphs-10.6* Monos-0.5* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-6.85* AbsLymp-0.82* 
AbsMono-0.04* AbsEos-0.00* AbsBaso-0.01
___ 08:52PM BLOOD Glucose-171* UreaN-16 Creat-0.9 Na-141 
K-4.4 Cl-99 HCO3-27 AnGap-15
___ 08:52PM BLOOD Iron-20*
___ 08:52PM BLOOD calTIBC-473* Ferritn-12* TRF-364*

IMAGING:
___. 1.5 cm linear radiopaque foreign body in the anterior wall of 
the cervical
esophagus.
2. 1.4 cm hypodense nodule right lobe of thyroid.  Given the 
___ age,
further imaging is not recommended.
3. Bilateral emphysematous changes.

___:
1. Interval removal of a metallic density object in the 
esophagus at the level
of the thoracic inlet.  There is no extraluminal gas to suggest 
esophageal
perforation in this limited field of view.
2. Stable 1.5 cm right thyroid nodule.
3. Unchanged severe centrilobular emphysema.
 
EGD ___: pushpin removed from mid esophagus, small mucosal 
tear

Microbiology: None

DISCHARGE LABS:
___ 06:50AM BLOOD WBC-6.3 RBC-3.45* Hgb-9.4* Hct-29.7* 
MCV-86 MCH-27.2 MCHC-31.6* RDW-16.3* RDWSD-50.8* Plt ___
___ 06:50AM BLOOD Glucose-118* UreaN-10 Creat-0.8 Na-144 
K-3.9 Cl-105 HCO3-28 AnGap-11
 
Brief Hospital Course:
Patient Summary for Admission:
___ is a ___ year old female with a history of 
dementia, HTN, emphysema with an intermittent presenting with an 
esophageal foreign body, admitted to medicine for post 
procedural management. Patient monitored closely, CT neck 
following procedure without evidence of free air. Patient able 
to tolerate PO intake and ultimately felt safe to be discharged 
home.

===================== 
ACUTE/ACTIVE PROBLEMS: 
# Ingestion, concern for possible perforation: Patient with 
likely unintentional tack ingestion secondary to dementia 
despite appropriate care at home. EGD retrieval ___, however 
given shape of object, patient required close monitoring for 
evidence perforation. CT Neck prior to removal without evidence 
of free air as well as CT neck following EGD. She was kept NPO 
on ___ and without chest pain, dyspnea, abdominal pain. Her 
diet was advanced to soft foods on ___ and she was able to 
tolerate this without issue. She was hemodynamically stable and 
felt safe for discharge home with strict return precautions. 

# Sinus Tachycardia: ___ heart rates 100-115s on 
presentation to
floor. Per daughter ___ this is consistent with baseline 
tachycardia. No known history of atrial fibrillation per 
patient, EKG confirmed sinus tachycardia. 

# Normocytic Anemia: Per report has a known history of anemia, 
no current signs of bleeding (denies melena, hematochezia). 
Likely chronic. Hemoglobin stable at 9 on discharge.

# Emphysema: Known history of COPD with home oxygen requirement 
of 2L. While inpatient she continued home advair, albuterol and 
montelukast. Oxygen requirement stable while inpatient. 
breathing. CT neck with significant underlying disease present.

# Dementia: Patient with known dementia, oriented intermittently 
to place and time. Is currently appropriate and not agitated. 
Continued home Citalopram.

CHRONIC/STABLE PROBLEMS: 
# HTN: Given normotension, patient has not been taking home 
Amlodipine or Chlorthalidone. 
# GERD: Pantoprazole 40mg daily

TRANSITIONAL ISSUES:
======================
[] Patient should schedule follow up with PCP ___: 
___ 
[] Discharged on soft diet with directions to advance diet 
slowly over next 2 days. Patient provided with strict return 
precautions including chest pain, dyspnea, fever. 
[] Ongoing discussion required with PCP regarding ___ 
desire to transition to an extended care facility.
[] Medication list should be evaluated by PCP, patient 
discharged on what she is currently taking which does not 
include anti hypertensives.

Medication Changes: None

Code Status: Full Code Presumed
Contact: ___ 
___: daughter 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
3. Pantoprazole 40 mg PO Q24H 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Montelukast 10 mg PO DAILY 
7. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
2.  Citalopram 20 mg PO DAILY  
3.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
4.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
5.  Montelukast 10 mg PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
Tack Ingestion

Secondary Diagnosis:
=====================
Age related Dementia
Anxiety
Sinus Tachycardia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was I admitted to the hospital?
You were having throat pain because you swallowed a thumb tack 
by mistake.

What was done for me while I was in the hospital?
You had an image of your neck to make sure your esophagus was 
not damaged. Our GI doctors completed ___ procedure called an EGD 
and remove the tack. We repeated and image of your neck which 
showed that there was not air where it should not be. This is 
good news. We watched you closely after your procedure and 
because you did not have pain and were able to tolerate oral 
foods you were safe to go home.

What should I do when I go home?
Please place your pills in a pill box. Continue a soft diet for 
the next 2 days, after that you can slowly advance your diet to 
a regular diet.  If you notice that you are having trouble 
swallowing, chest pain or abdominal pain you MUST return to the 
hospital. 

We wish you the best!
Your ___ treatment team
 
Followup Instructions:
___